US07163936B2
To a solution of 1-allyl 4-ethyl (6S)-6-methyl-3,6-dihydro-1,4(2 H)-pyridinedicarboxylate (200 mg, 0.79 mmol) and bromochloromethane (0.082 ml, 1.3 mmol) in THF (4 ml) was added at −90° C. a solution of n-butyllithium in hexane (1.59M, 0.74 ml, 1.2 mmol). Twenty minute later, the reaction mixture was poured into a mixture of ice (5 g) and phosphate buffer (pH 7.0, 10 ml). To the solution was added ethyl acetate and after separating the mixture with a separating funnel, the aqueous layer was extracted twice with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and the organic solvent was removed under reduced pressure. The residue was purified by silica gel chromatography to give allyl (6S)-4-(chloroacetyl)-6-methyl-3,6-dihydro-1(2 H)-pyridinecarboxylate (167 mg).

reactant | 1-allyl 4-ethyl (6S)-6-methyl-3,6-dihydro-1,4(2 H)-pyridinedicarboxylate | 0.79 mmol, 200 mg | C[C@H]1C=C(CCN1C(=O)OCC=C)C(=O)OCC | C13H19NO4
reactant | bromochloromethane | 1.3 mmol, 0.082 ml | BrCCl | CH2BrCl
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 1.2 mmol, 1.59M, 0.74 ml | CCCCCC | C6H14
reactant | phosphate | 10 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | allyl (6S)-4-(chloroacetyl)-6-methyl-3,6-dihydro-1(2 H)-pyridinecarboxylate | 167 mg | ClCC(=O)C=1CCN([C@H](C1)C)C(=O)OCC=C | C12H16ClNO3
